US05021433
N,N-diethylglycine, [2[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazol-1-yl]methyl ester (Method C)
A mixture of [2[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazol-1-yl]methanol (3.5 g 0.010 mol), N,N-dicyclohexylcarbodiimide (2.1 g 0.010 mol), N,N-diethylglycine hydrochloride (1.7 g 0.010 mol) and 4-dimethylaminopyridine (1.3 g 0.011 mol) in pyridine (75 ml) was stirred at room temperature for 39 h. N,N-dicyclohexyl urea which had precipitated was removed by filtration. The filtrate was evaporated, the residue was dissolved in dichloromethane. The dichloromethanesolution was washed with NaOH 0.080 g (0.0020 mol), dissolved in water (25 ml) and then once with water (25 ml). The organic phase was dried (Na2SO4), filtered and the solvent was evaporated off, giving the desired product. The identity of the product was confirmed with NMR.

reactant | [2[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazol-1-yl]methanol | 0.010 mol, 3.5 g | COC1=C(C(=NC=C1C)CS(=O)C1=NC2=C(N1CO)C=CC=C2)C | C17H19N3O3S
reactant | N,N-diethylglycine hydrochloride | 0.010 mol, 1.7 g | Cl.C(C)N(CC(=O)O)CC
reactant | NaOH | 0.0020 mol, 0.080 g | [OH-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.011 mol, 1.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | N,N-diethylglycine, [2[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazol-1-yl]methyl ester | C(C)N(CC(=O)OCN1C(=NC2=C1C=CC=C2)S(=O)CC2=NC=C(C(=C2C)OC)C)CC | C23H30N4O4S
